US04275001
Preparation of Glu-His(Tos)-OH as comparative substance for Table 1
3 g (10 mmols) of Glu-His-OH and 2.3 g of NaHCO3 are dissolved in 20 ml of water and, while stirring at room temperature, a solution of 2.1 g (10% excess) of p-toluene sulfochloride in about 10 ml of dioxane is slowly added drop by drop. When the addition is terminated, stirring of the mixture is continued for a further hour, whereupon it is extracted twice with ether. The aqueous phase is acidified to pH 2 with 2 N HCl and the precipitate is filtered off with suction. It is washed with water and the filer residue is dried over P2O5 under reduced pressure. Yield 2.2 g.

reactant | Glu-His-OH | 10 mmols, 3 g | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O | C11H16N4O5
reactant | NaHCO3 | 2.3 g | C(=O)(O)[O-].[Na+]
reactant | p-toluene sulfochloride | 2.1 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | water | 20 ml | O | H2O
solvent | dioxane | about 10 ml | O1CCOCC1 | C4H8O2
product | Glu-His(Tos)-OH | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)O | C18H22N4O7S
